US08389524B2
(1R)-1-[(4-{[(2-Oxo-2H-chromen-7-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione
To a 10 mL round-bottomed flask were added (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (for a preparation see Example 5A(j)) (80 mg, 0.266 mmol), 2-oxo-2H-chromene-7-carbaldehyde (for a synthesis see WO2008009700 Example 224) (46.4 mg, 0.266 mmol), and NaHCO3 (100 mg, 1.190 mmol) in dichloromethane (DCM) (4 ml) and methanol (1 ml) to give a brown solution. Sodium sulfate (200 mg, 1.408 mmol) was added and the reaction was allowed to stir at rt overnight. After 15 h sodium triacetoxyborohydride (113 mg, 0.533 mmol) was added and the reaction was allowed to stir at 25° C. under nitrogen for 4 h. The reaction mixture was adsorbed onto silica and purified using 0-10% MeOH/DCM (1% NH4OH) to give the title compound as a free base (30 mg, 0.064 mmol, 24.07% yield) as a tan solid. LCMS & 1H NMR consistant with desired product.

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O
reactant | 2-oxo-2H-chromene-7-carbaldehyde | O=C1OC2=CC(=CC=C2C=C1)C=O | C10H6O3
reactant | NaHCO3 | 1.190 mmol, 100 mg | C(=O)(O)[O-].[Na+]
reactant | Sodium sulfate | 1.408 mmol, 200 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 0.533 mmol, 113 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
product | (1R)-1-[(4-{[(2-Oxo-2H-chromen-7-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | O=C1OC2=CC(=CC=C2C=C1)CNC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | C26H26N4O4
